US07259266B2
Step 3. Preparation of 8-(2-hydroxyethyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To a solution of crude ethyl 8-(2-ethoxy-2-oxoethyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 621s, Step 2. (2.10 g) in 1:1 THF-ethanol (100 mL) was added NaBH4 (3.00 g, 79.3 mmole) and the mixture was stirred at room temperature for lh. Additional NaBH4 (3.00 g, 79.3 mmole) was then added and the mixture was stirred for 4 hrs. Additional NaBH4 (3.00 g, 79.3 mmole) was then added and the mixture was stirred for 3hrs. H2O (50 mL) was added and the mixture was stirred for 30 minutes. Brine (100 mL) was added; the mixture was acidified with 1N HCl and extracted with EtOAc (2×200 mL). The combined extracts were washed with brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified by silica chromatography (25% EtOAc/1% HOAc in hexanes to 100% EtOAc/1% HOAc in hexanes) to give an off-white crystalline solid. Recrystallization from EtOAc-hexanes gave 427 mg (23% yield) of the product as an off-white crystalline solid: ESHRMS m/z 371.0334 (M−H, C14H9F6O5, Calc'd 371.0354); 1H NMR (dmso-d6/300 MHz) 13.40 (brs, 1H), 7.88 (s, 1H), 7.45 (d, 1H, J=2.2 Hz), 7.28 (d, 1H, J=2.4 Hz), 5.99 (q, 1H, J=7.3 Hz), 4.70 (s, 1H), 3.57 (s, 2H), 2.77-2.71 (m, 2H).

reactant | ethyl 8-(2-ethoxy-2-oxoethyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C(C)OC(CC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F)=O | C18H16F6O6
reactant | THF ethanol | 100 mL | C1CCOC1.C(C)O
reactant | NaBH4 | 79.3 mmole, 3.00 g | [BH4-].[Na+]
reactant | NaBH4 | 79.3 mmole, 3.00 g | [BH4-].[Na+]
reactant | NaBH4 | 79.3 mmole, 3.00 g | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | Brine | 100 mL | [Cl-].[Na+].O
solvent | H2O | 50 mL | O | H2O
product | 8-(2-hydroxyethyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 427 mg, 23% yield | OCCC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)OC(F)(F)F | C14H10F6O5
